US05478856
A 3.6 g of syringaldehyde and 5 ml of diethyl succinate were dissolved in 60 ml of tetrahydrofuran. To the solution was added 4.9 g of potassium t-butoxide, and the mixture was heated under reflux for 24 hours. The mixture was poured into ice water. The aqueous solution was acidified with 6N hydrochloric acid and extracted with 100 ml of ethyl acetate. An organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give 3 g (yield 48%) of ethyl α-carboxymethyl-3,5-dimethoxy-4-hydroxycinnamate. The product was dissolved in 20 ml of N,N-dimethylformamide. To the solution was added 2.1 g of N,N'-dicyclohexylcarbodiimide, and the mixture was stirred at room temperature for 30 minutes. To the mixture was added methanol to filter off an insoluble material, which was washed with methanol and dried to give 2 g (yield 80%) of the corresponding acid anhydride compound.

reactant | syringaldehyde | 3.6 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | diethyl succinate | 5 ml | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | potassium t-butoxide | 4.9 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | ethyl α-carboxymethyl-3,5-dimethoxy-4-hydroxycinnamate | 3 g, yield 48% | C(=O)(O)CC(C(=O)OCC)=CC1=CC(=C(C(=C1)OC)O)OC | C15H18O7
